US08242145B2
Step 4: (4S,5R)-5-(4-Chloro-phenyl)-4-methyl-oxazolidin-2-one
To [(S)-2-(4-Chloro-phenyl)-2-hydroxy-1-methyl-ethyl]-carbamic acid benzyl ester (2.7 mmol) in THF:MeOH was added 7.5N aqueous potassium hydroxide (10 mL), and the reaction was stirred at room temperature for 3 hours. Once no starting material was seen by analytical LCMS, the mixture was diluted with EtOAc and brine, and the organic layer was separated and purified by silica gel chromatography to give the desired product (0.1 g).

reactant | [(S)-2-(4-Chloro-phenyl)-2-hydroxy-1-methyl-ethyl]-carbamic acid benzyl ester | 2.7 mmol | C(C1=CC=CC=C1)OC(N[C@H](C(O)C1=CC=C(C=C1)Cl)C)=O | C17H18ClNO3
reactant | MeOH | CO | CH4O
reactant | potassium hydroxide | 7.5N, 10 mL | [OH-].[K+]
solvent | THF | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | brine | [Cl-].[Na+].O
product | (4S,5R)-5-(4-Chloro-phenyl)-4-methyl-oxazolidin-2-one | 0.1 g | ClC1=CC=C(C=C1)[C@@H]1[C@@H](NC(O1)=O)C | C10H10ClNO2
